US08022205B2
4-(2,4-Dimethoxy-pyrimidin-5-yl)-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (B-08)
To 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (40 mg, 0.126 mmol), 2,4-dimethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidine (67 mg, 0.252 mmol), palladium acetate (1.4 mg, 0.0063 mmol), S-Phos (5.2 mg, 0.0126 mmol) and potassium phosphate (53.5 mg, 0.252 mmol), dimethylformamide (1 ml) was added, followed by being degassed under ultrasonic irradiation. This was stirred at 100° C. for 12 hours, followed by addition of water, and the resulting solid was filtered, which was washed with ethyl acetate, to obtain the desired compound as a colorless solid (15.7 mg, yield 30%).

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | 0.126 mmol, 40 mg | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2 | C15H16ClN5O
reactant | 2,4-dimethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidine | 0.252 mmol, 67 mg | COC1=NC=C(C(=N1)OC)B1OC(C(O1)(C)C)(C)C | C12H19BN2O4
reactant | S-Phos | 0.0126 mmol, 5.2 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | potassium phosphate | 0.252 mmol, 53.5 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.0063 mmol, 1.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(2,4-Dimethoxy-pyrimidin-5-yl)-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | 15.7 mg, yield 30% | COC1=NC=C(C(=N1)OC)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2 | C21H23N7O3
